US09120749B2
(4-(2-(3-aminopyrrolidin-1-yl)pyrimidin-5-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)pyrrolidin-3-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (74 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (42 mg, 45% over 2 steps) as a yellow-orange solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.35 (s, 1H), 8.48 (s, 2H), 8.25 (dd, J=8.8, 1.9 Hz, 1H), 8.19 (s, 1H), 8.04 (d, J=8.8 Hz, 1H), 7.22 (s, 2H), 4.06 (m, 2H), 3.91 (dt, J=11.7, 7.4 Hz, 1H), 3.82 (m, 2H), 2.82 (s, 1H), 2.54 (td, J=13.1, 6.8 Hz, 1H), 2.24 (td, J=13.2, 5.7 Hz, 1H), 1.21 (s, 4H); ESI MS m/z 519 [C27H24ClFN6O2+H]+; HPLC 99.7% (AUC), tR=10.05 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)pyrrolidin-3-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C26H29BrN6O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 74 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (4-(2-(3-aminopyrrolidin-1-yl)pyrimidin-5-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 42 mg, 45% | NC1CN(CC1)C1=NC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C27H24ClFN6O2
